US05260487
The procedure described in Example 4 was followed, replacing the phenol (48 g) by 4-octylphenol (105 g 0.5 mole). During addition of the paraformaldehyde, the internal temperature was maintained at 95°-98° C. and the reaction mixture was stirred at 98° C. for a further hour. In other respects, the conditions were as described in Example 4. The product, 5-octylsalicylaldehyde, was obtained in 85% yield.

reactant | 4-octylphenol | 0.5 mole, 105 g | C(CCCCCCC)C1=CC=C(C=C1)O | C14H22O
reactant | paraformaldehyde | C=O | CH2O
product | 5-octylsalicylaldehyde | 85% yield | C(CCCCCCC)C1=CC=C(C(C=O)=C1)O | C15H22O2
